US07494992B2
Preparation 35: 9-(phenylmethyl)-9-azatricyclo[5.3.1.02,6]undec-3-ene
To a stirred solution of tricyclo[5.2.1.02,6]dec-3-ene-8,9-diol (Preparation 36, 6.24 g, 37.6 mmol) in dioxane (100 ml) was added sodium periodate (8.04 g, 37.6 mmol) in water (80 ml) and the reaction mixture was stirred vigorously for 45 min. The reaction mixture was extracted with ethyl acetate (4×100 ml) and the combined extracts were washed with brine, dried (Na2SO4) and concentrated in vacuo. The crude oil (6.1 g, 37.1 mmol) was diluted with dichloroethane (400 ml) and benzylamine (3.98 g, 37.1 mmol) was added. After 3 min, sodium triacetoxyborohydride (25.23 g, 119 mmol) was added and the reaction mixture was stirred at room temperature for 18 h. Saturated sodium carbonate solution (200 ml) was added, and after 30 min, the layers were separated and the aqueous layer was washed with dichloromethane (3×50 ml). The combined organic extracts were washed with brine, filtered and concentrated. The crude yellow oil was purified by flash chromatography eluting with ethyl acetate:dichloromethane (10:90) to give the title compound as a colourless oil (6.7 g, 75%)

reactant | tricyclo[5.2.1.02,6]dec-3-ene-8,9-diol | 37.6 mmol, 6.24 g | C12C3C=CCC3C(C(C1O)O)C2 | C10H14O2
reactant | sodium periodate | 37.6 mmol, 8.04 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | benzylamine | 37.1 mmol, 3.98 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium triacetoxyborohydride | 119 mmol, 25.23 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | 200 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 80 ml | O | H2O
solvent | dichloroethane | 400 ml | ClC(C)Cl | C2H4Cl2
product | 9-(phenylmethyl)-9-azatricyclo[5.3.1.02,6]undec-3-ene | 6.7 g, 75% | C1(=CC=CC=C1)CN1CC2C3CC=CC3C(C1)C2 | C17H21N
